US08420661B2
Step 1: 3-Iodo-6-(phenylethynyl)pyridazine
To a solution of 100 mg (0.466 mmol) of 3-chloro-6-(phenylethynyl)pyridazine in 5 ml of acetonitrile were added sodium iodide (209 mg, 1.4 mmol, 3 equiv.), acetic acid (56 mg, 53.3 ml, 0.93 mmol, 2 equiv.), and 95% sulfuric acid (4.6 mg, 2.5 ml, 0.47 mmol, 1 equiv.). The orange solution was stirred for 8 hours at 70° C. and then left to cool overnight. After standard workup with ethyl acetate/water, the residue was adsorbed onto 4 g of silicagel and purified by flash chromatography over a 20 g silicagel column over a heptane to 50% ethyl acetate in heptane gradient to yield 82 mg (58% yield) of the title compound as a crystalline light yellow solid, MS: m/e=307.1 (M+H+).

reactant | 3-chloro-6-(phenylethynyl)pyridazine | 0.466 mmol, 100 mg | ClC=1N=NC(=CC1)C#CC1=CC=CC=C1 | C12H7ClN2
reactant | sodium iodide | 1.4 mmol, 209 mg, 3 equiv. | [I-].[Na+]
reactant | acetic acid | 0.93 mmol, 53.3 ml, 56 mg, 2 equiv. | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 0.47 mmol, 2.5 ml, 4.6 mg, 1 equiv. | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 3-Iodo-6-(phenylethynyl)pyridazine | 82 mg, 58% yield | IC=1N=NC(=CC1)C#CC1=CC=CC=C1 | C12H7IN2
